US07427615B2
A solution of 1-t-butoxycarbonyl-3-piperidinecarboxanilide (437 mg, 1.43 mmol) and hydrochloride (1 ml, 4.00 mmol, 4N ethyl acetate) was stirred for several hours. Filtration of the precipitate gave 3-piperidinecarboxanilide hydrochloride (187 mg, 55%).

reactant | 1-t-butoxycarbonyl-3-piperidinecarboxanilide | 1.43 mmol, 437 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)NC1=CC=CC=C1 | C17H24N2O3
reactant | hydrochloride | 4.00 mmol, 4N, 1 ml | Cl | ClH
product | 3-piperidinecarboxanilide hydrochloride | 187 mg, 55% | Cl.N1CC(CCC1)C(=O)NC1=CC=CC=C1 | InChI=1S/C12H16N2O.ClH/c15-12(10-5-4-8-13-9-10)14-11-6-2-1-3-7-11;/h1-3,6-7,10,13H,4-5,8-9H2,(H,14,15);1H
